US07153919B2
Synthesis of 2-lithio-2-phenyl-1,3-dithiane
To a solution of 2-phenyl-1,3-dithiane (2.1 g, 10.69 mmol) in THF (5 mL) and cyclohexane (10 mL) was added n-BuLi (6.37 mL, 1.68 M in hexane) dropwise via a syringe at −78° C. The solution was stirred for an additional 3 hours at 0° C. The resulting 0.5 M 2-litho-2-phenyl-1,3-dithiane (abbreviated as PDT-Li) was used for anionic initiator for polymerizing butadiene and/or butadiene/styrene and stored in an inert atmosphere of nitrogen in a refrigerator.

reactant | 2-phenyl-1,3-dithiane | 10.69 mmol, 2.1 g | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
reactant | n-BuLi | 1.68 M, 6.37 mL | [Li]CCCC
reactant | butadiene | C=CC=C | C4H6
reactant | butadiene styrene | C=CC=C.C=CC1=CC=CC=C1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | 10 mL | C1CCCCC1 | C6H12
product | 2-lithio-2-phenyl-1,3-dithiane | [Li]C1(SCCCS1)C1=CC=CC=C1 | InChI=1S/C10H11S2.Li/c1-2-5-9(6-3-1)10-11-7-4-8-12-10;/h1-3,5-6H,4,7-8H2;
